US09328111B2
A solution of 7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate (3.3 g, 11.6 mmol) and hydrazine hydrate (15 mL) in DMA (22 mL) was heated at 110° C. for 1.5 h, acetic acid (30 mL) was added and the mixture was stirred at 130° C. for another 4 hours. The reaction mixture was cooled to room temperature, and aqueous NaHCO3 (80 ml) was added to the mixture, filtered. And the filtered cake was washed with water (50 mL) and methanol (30 mL) alternatively multiple times. The solvent was removed in vacuo to give 10,10-Dimethyl-8,9,10,11-tetrahydro-2H-pyridazino[5,4,3-kl]acridin-3(7H)-one as a yellow solid (1.50 g, 49%). 1H NMR (DMSO-d6) δ 11.71 (s, 1H), 10.36 (s, 1H), 7.59-7.63 (m, 1H), 7.42-7.44 (m, 1H), 7.25-7.27 (m, 1H), 2.49-2.52 (m, 2H), 2.10 (s, 2H), 1.55 (m, 2H), and 1.00 (s, 6H). MS (ESI) m/e [M+1]+268.

reactant | 7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate | 11.6 mmol, 3.3 g | CC1(CCC=2NC=3C=CC=C(C3C(C2C1)=O)C(=O)[O-])C
reactant | hydrazine hydrate | 15 mL | O.NN
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
solvent | DMA | 22 mL | CC(=O)N(C)C | C4H9NO
product | 10,10-Dimethyl-8,9,10,11-tetrahydro-2H-pyridazino[5,4,3-kl]acridin-3(7H)-one | 1.50 g, 49% | CC1(CC=2C=3C4=C(C=CC=C4NC2CC1)C(NN3)=O)C | C16H17N3O
